US09029399B2
Preparation of 1-(2-chloro-6-cyclopropylpyridin-4-yl)-3-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (47A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropyl pyridin-3-yl)-3-(2,6-dichloropyridin-4-yl)imidazolidin-2-one (I-46a: 100 mg, 0.2865 mmol) was reacted with cyclopropyl boronic acid (74 mg, 0.8593 mmol), Pd(PPh3)4 (7 mg, 0.0057 mmol), sodium carbonate (69 g, 0.6590 mmol) and toluene (5 mL) in seal tube at 120° C. for 12 hours. Purification by column chromatography on silica gel (1% methanol in chloroform), followed by preparative HPLC afforded 20 mg of the product (20% yield).

reactant | 1-(4-cyclopropyl pyridin-3-yl)-3-(2,6-dichloropyridin-4-yl)imidazolidin-2-one | 0.2865 mmol, 100 mg | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C1=CC(=NC(=C1)Cl)Cl)=O | C16H14Cl2N4O
reactant | cyclopropyl boronic acid | 0.8593 mmol, 74 mg | C1(CC1)B(O)O | C3H7BO2
reactant | sodium carbonate | 0.6590 mmol, 69 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.0057 mmol, 7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-chloro-6-cyclopropylpyridin-4-yl)-3-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 20 mg, 20% yield | ClC1=NC(=CC(=C1)N1C(N(CC1)C=1C=NC=CC1C1CC1)=O)C1CC1 | C19H19ClN4O
